US04705553
27 g of tert.-butyl chloride are added dropwise to an ice-cooled mixture of 52 g of 2-methyl-5-phenylpentyl chloride and 4.9 g of FeCl3. The mixture is stirred for 7 hours at 50° C. and for 12 hours at room temperature, and taken up in methylene chloride, the solution is washed with water, dried over Na2SO4 and evaporated down, and the residue is distilled to give 40 g of 5-p-tert.-butylphenyl-2-methylphenyl chloride of boiling point 114°-118° C./0.2 mbar.

reactant | tert.-butyl chloride | 27 g | C(C)(C)(C)Cl | C4H9Cl
reactant | 2-methyl-5-phenylpentyl chloride | 52 g | CC(CCl)CCCC1=CC=CC=C1 | C12H17Cl
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-p-tert.-butylphenyl-2-methylphenyl chloride | 40 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC(=C(C1)Cl)C | C17H19Cl
